US03950565
To a mixture of 1.0 g of 2,5-dimethyl-4-hydroxy-3-(2H)-furanone, 5 g of propanal and 20 ml of water were added 0.2 g of oxalic acid and the mixture was stirred at room temperature for 25 hours and then extracted three times with chloroform. The chloroform extract was evaporated and the residue purified by column chromatography on polyamide using ether-pentane 10/90 as the eluent. Pure 2-(1-hydroxypropyl)-2,5-dimethyl-4-hydroxy-3-(2H)-furanone was obtained, which was recrystallized from ether-pentane 50/50; solid mass at room temperature.

reactant | 2,5-dimethyl-4-hydroxy-3-(2H)-furanone | 1.0 g | CC1OC(=C(C1=O)O)C | C6H8O3
reactant | propanal | 5 g | C(CC)=O | C3H6O
reactant | oxalic acid | 0.2 g | C(C(=O)O)(=O)O | C2H2O4
solvent | water | 20 ml | O | H2O
product | 2-(1-hydroxypropyl)-2,5-dimethyl-4-hydroxy-3-(2H)-furanone | OC(CC)C1(OC(=C(C1=O)O)C)C | C9H14O4
